US05207947
(3) Synthesis of 2-fluoro-4-n-decanoyloxybenzoic acid
To a solution of 2-fluoro-4-hydroxybenzoic acid (2 g) and triethylamine (1.4 g) in dichloromethane (40 ml) were added decanoylchloride (2.7 g) and dimethylaminopyridine (0.2 g). The solution was stirred at room temperature for about 20 hours. To the solution was added dilute aqueous hydrochloric acid solution and the organic layer was separated by a funnel. The layer was distilled to remove the solvent. The residue was washed with n-hexane and dried to obtain the titled compound (about 2.8 g).

reactant | 2-fluoro-4-hydroxybenzoic acid | 2 g | FC1=C(C(=O)O)C=CC(=C1)O | C7H5FO3
reactant | decanoylchloride | 2.7 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | dimethylaminopyridine | 0.2 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
product | 2-fluoro-4-n-decanoyloxybenzoic acid | about 2.8 g | FC1=C(C(=O)O)C=CC(=C1)OC(CCCCCCCCC)=O | C17H23FO4
